US06900215B2
Acetic acid 1-methyl-2-oxopropyl ester was converted to acetic acid 4,4-diethoxy-1-methyl-2-oxobutyl ester as described in Example 3 and condensed with 2-aminoimidazole hemisulfate as described in Example 2. Flash column chromatography on silica gel, eluting with dichloromethane with 1% conc. ammonia on a gradient of methanol (1-8%), furnished (in order of elution) acetic acid 1-(imidazo[1,2-α]pyrimidin-7-yl)ethyl ester as a yellow solid (1.38 g): δH (360 MHz, CDCl3) 1.64 (3H, d, J 7), 2.16 (3H, s), 5.90 (1H, q, J 7), 6.95 (1H, d, J 7), 7.57 (1H, d, J 1), 7.76 (1H, d, J 1), 8.51 (1H, d, J 7); followed by 1-(imidazo[1,2-α]pyrimidin-7-yl)ethanol (3.96 g) as an off-white solid: δH (360 MHz, CDCl3) 1.52 (3H, d, J 7), 3.47 (1H, s), 7.11 (1H, d, J 7), 7.52 (1H, d, J 1), 7.63 (1H, d, J 1), 8.48 (1H, d, J 7).

reactant | Acetic acid 1-methyl-2-oxopropyl ester | CC(C(C)=O)OC(C)=O | C6H10O3
reactant | acetic acid 4,4-diethoxy-1-methyl-2-oxobutyl ester | C(C)OC(CC(C(C)OC(C)=O)=O)OCC | C11H20O5
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | acetic acid 1-(imidazo[1,2-α]pyrimidin-7-yl)ethyl ester | 1.38 g | N=1C=CN2C1N=C(C=C2)C(C)OC(C)=O | C10H11N3O2
